US09376418B2
A mixture of with 5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridine-2-carbonitrile (50.0 mg, 0.141 mmol) in DMSO (281 μL) was slowly added to a solution of hydrogen peroxide (10.0 μL, 0.326 mmol) and sodium hydroxide (5 M, 56.3 μL, 0.281 mmol). The reaction was stirred at room temperature overnight. The reaction mixture was filtered, diluted with DMF, and directly purified by reverse phase HPLC (5-95% acetonitrile in water+0.5% TFA) to yield 5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridine-2-carboxamide. MS APCI calc'd for C18H15F3N5O [M+H]+ 374. found 374. 1H NMR (500 MHz, CDCl3) δ 8.85 (s, 1H), 8.65 (d, J=5.6 Hz, 1H), 8.27 (d, J=8.6 Hz, 1H), 8.09 (d, J=8.5, 1H), 7.98 (s, 1H), 7.39 (s, 1H), 7.19 (s, 1H), 7.09 (d, J=5.5 Hz, 1H), 2.47 (s, 3H).

reactant | 5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridine-2-carbonitrile | 0.141 mmol, 50.0 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=CC(=NC1)C#N | C18H12F3N5
reactant | hydrogen peroxide | 0.326 mmol, 10.0 μL | OO | H2O2
reactant | sodium hydroxide | 0.281 mmol, 5 M, 56.3 μL | [OH-].[Na+]
solvent | DMSO | 281 μL | CS(=O)C | C2H6OS
product | 5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridine-2-carboxamide | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=CC(=NC1)C(=O)N | C18H14F3N5O
